US04309426
8.62 g (0.05 mole) of 2 -fluorophenacyl chloride and 5.22 g of 4-methyl-thiosemicarbazide are reacted in 150 ml of methanol under the conditions of Example 2. The product is recrystallized from methanol/ethyl acetate, yielding 6.7 g of 5-(2-fluorophenyl)-N-methyl-6H-1,3,4-thiadiazin-2-amine monohydrochloride. m.p. 183°-184° C.

reactant | 2 -fluorophenacyl chloride | 0.05 mole, 8.62 g | FC1=C(C(CCl)=O)C=CC=C1 | C8H6ClFO
reactant | 4-methyl-thiosemicarbazide | 5.22 g | CNC(NN)=S | C2H7N3S
solvent | methanol | 150 ml | CO | CH4O
product | 5-(2-fluorophenyl)-N-methyl-6H-1,3,4-thiadiazin-2-amine monohydrochloride | 6.7 g | Cl.FC1=C(C=CC=C1)C1=NN=C(SC1)NC | InChI=1S/C10H10FN3S.ClH/c1-12-10-14-13-9(6-15-10)7-4-2-3-5-8(7)11;/h2-5H,6H2,1H3,(H,12,14);1H
